** sch_path: /foss/designs/encoder/sym/NAND3.sch
.subckt NAND3 b a VDD out C GND
*.PININFO a:I out:O C:I b:I VDD:I GND:I
M5 out net1 VDD VDD pfet_03v3 L=0.28u W=3.3u nf=5
M6 out net1 GND GND nfet_03v3 L=0.28u W=2.54u nf=4
M7 cbar C VDD VDD pfet_03v3 L=0.28u W=3.3u nf=5
M8 cbar C GND GND nfet_03v3 L=0.28u W=2.54u nf=4
M13 net1 a VDD VDD pfet_03v3 L=0.28u W=3.3u nf=5
M14 net1 b VDD VDD pfet_03v3 L=0.28u W=3.3u nf=5
M15 net1 cbar VDD VDD pfet_03v3 L=0.28u W=3.3u nf=5
M16 net1 a net2 GND nfet_03v3 L=0.28u W=2.54u nf=4
M17 net2 b net3 GND nfet_03v3 L=0.28u W=2.54u nf=4
M18 net3 cbar GND GND nfet_03v3 L=0.28u W=2.54u nf=4
.ends
